* SWRA117D 2.45 GHz radiator on a 50 ohm SMA port - return loss at the connector
*
* Mirrors the board exactly as built (swra117d_2g4_antenna.kicad_sch):
*   J1 (50 ohm port) -- 23.5 mm of 50 ohm microstrip -- AE1
* The board's pi network carries no matching values - the antenna is a 50 ohm
* design and SWRA117D publishes none - so Z2 is a 0 ohm link and Z1/Z3 are
* laid out empty.  Electrically that is the same path this deck models.
*
* T1 is the routed feed line, lossless: 2.95 mm wide microstrip on 1.6 mm FR4
* gives eps_eff = 3.394, so 23.5 mm is TD = 144 ps (127 degrees at 2.45 GHz).
* A matched line cannot change |S11|, only its phase - which is exactly why a
* lumped antenna model is still the right tool for return loss at the SMA.
* To see the antenna on its own, short T1 out: comment it and uncomment Rjmp.
*
* With a 1 V AC source behind 50 ohm, the reflection coefficient at the
* connector is gamma = 2*v(in) - 1, because v(in) = Zin/(Zin+50).
*
* Run:  ngspice -b s11_antenna.cir        (writes s11_results.csv)

* NOTE: antenna_swra117d.lib is the antenna this board is meant to have - a
* 2.454 GHz resonator.  It is design intent, not a prediction of the etched
* geometry, and the board carries the published footprint unscaled: the runs
* that suggested otherwise were not set up well enough to act on (see the
* run log in ../README.md).  Use openEMS - preferably on the antenna-only
* board, sim/board/swra117d_2g4_sim.kicad_pcb - to find where the copper
* actually resonates, and this deck to work out what to do about the
* impedance once you know.

.include antenna_swra117d.lib

V1  src 0    dc 0 ac 1
Rs  src in   50
T1  in  0 ant 0 Z0=50 TD=144p
*Rjmp in ant  1u
XAE1 ant 0   ANT_SWRA117D_2G4

* The pi network the board lays out but does not populate, for working out
* what a match would buy you before fitting anything.  Z1 and Z3 are the
* shunts, Z2 the series position (a 0 ohm link on the board today).
*   C1 in  0   0.5p
*   L1 in  ant 0.8n
*   C2 ant 0   0.5p

.control
  ac lin 2001 2.0e9 3.0e9
  let gamma = 2 * v(in) - 1
  let s11   = db(gamma)
  let rho   = mag(gamma)
  let vswr  = (1 + rho) / (1 - rho)
  let zin   = 50 * v(in) / (1 - v(in))
  let rin   = real(zin)
  let xin   = imag(zin)

  meas ac s11min  MIN s11 from=2.0e9 to=3.0e9
  meas ac s11_2g4 FIND s11 AT=2.442e9
  meas ac vswr2g4 FIND vswr AT=2.442e9

  echo "--- return loss at the SMA connector ---"
  print s11min s11_2g4 vswr2g4

  wrdata s11_results.csv s11 vswr rin xin
  if $?batchmode = 0
    plot s11 xlabel "frequency [Hz]" ylabel "S11 [dB]"
    plot rin xin xlabel "frequency [Hz]" ylabel "Zin at the connector [ohm]"
  end
.endc
.end
